US07456164B2
4-{4-[2-(1-Methylpyrrolidin-2-yl)ethoxy]phenyl}tetrahydro-pyran-4-carbonitrile
4-(4-Hydroxy-phenyl)-tetrahydro-pyran-4-carbonitrile (1.0 g, 4.9 mmol), 2-(2-chloro-ethyl)-1-methyl-pyrrolidine (722 mg, 3.90 mmol), DMF (20 ml) and K2CO3 (2.71 g, 19.60 mmol) were reacted together according to general procedure E. The organic phase was washed with 2M NaOH (3×20 ml), water (2×20 ml), dried over MgSO4, fitered and concentrated in vacuo at 35° C. and purified by prep TLC, eluting with DCM:MeOH:NH3 (95:5:3), to provide the title compound (180 mg, 15%) as a yellow oil. 1H NMR (400 MHz, CDCl3), δ 7.38 (d, 2H), 6.93 (d, 2H), 4.12-4.03 (m, 4H), 3.89 (td, 2H), 3.08 (m, 1H), 2.35 (s, 3H), 2.29-1.94 (m, 8H), 1.85-1.65 (m, 2H), 1.62-1.50 (m, 2H).

reactant | 4-(4-Hydroxy-phenyl)-tetrahydro-pyran-4-carbonitrile | 4.9 mmol, 1.0 g | OC1=CC=C(C=C1)C1(CCOCC1)C#N | C12H13NO2
reactant | 2-(2-chloro-ethyl)-1-methyl-pyrrolidine | 3.90 mmol, 722 mg | ClCCC1N(CCC1)C | C7H14ClN
reactant | K2CO3 | 19.60 mmol, 2.71 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-{4-[2-(1-Methylpyrrolidin-2-yl)ethoxy]phenyl}tetrahydro-pyran-4-carbonitrile | 180 mg, 15% | CN1C(CCC1)CCOC1=CC=C(C=C1)C1(CCOCC1)C#N | C19H26N2O2
